US04898943
In 125 ml of acetic acid was suspended 9.77 g of 2-(2-cyclohexylethyl)-7-hydroxy-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one, and 3.5 ml of fuming nitric acid was added thereto dropwise while stirring under ice-cooling. The stirring was continued at room temperature for an additional 2.5 hours, and the precipitate formed was collected by filtration and washed successively with water, isopropanol, and diethyl ether to obtain 10.3 g of 2-(2-cyclohexylethyl)-7-hydroxy-6-nitro-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one as a pale yellow crystal.

reactant | 2-(2-cyclohexylethyl)-7-hydroxy-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one | 9.77 g | C1(CCCCC1)CCC1=NN2C(=NC(=CC2=O)O)S1 | C13H17N3O2S
reactant | nitric acid | 3.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
product | 2-(2-cyclohexylethyl)-7-hydroxy-6-nitro-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one | 10.3 g | C1(CCCCC1)CCC1=NN2C(=NC(=C(C2=O)[N+](=O)[O-])O)S1 | C13H16N4O4S
